US05254565
2N-Sodium hydroxide solution (9.0 ml) was added dropwise to a mixture of 2-(2-nitrovinylamino)-5-trifluoromethylbenzophenone (6.0 g) and methanol (60 ml) under stirring. After stirring further for 30 mins. at room temperature, the mixture was diluted with water to give 3-nitro-4-phenyl-6-trifluoromethylquinoline as crystals (4.88 g, 4.5 %). It was recrystallized from a mixture of chloroform and methanol to give pale yellow needles (4.50 g, 79,2 %). m.p 192°-193° C.

reactant | Sodium hydroxide | 9.0 ml | [OH-].[Na+]
reactant | 2-(2-nitrovinylamino)-5-trifluoromethylbenzophenone | 6.0 g | [N+](=O)([O-])C=CNC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C(F)(F)F | C16H11F3N2O3
reactant | methanol | 60 ml | CO | CH4O
solvent | water | O | H2O
product | 3-nitro-4-phenyl-6-trifluoromethylquinoline | 4.88 g, 4.5 % | [N+](=O)([O-])C=1C=NC2=CC=C(C=C2C1C1=CC=CC=C1)C(F)(F)F | C16H9F3N2O2
